US04753940
1.5. 1,3-Dimethyl-5-[4-(3-methylpyrazin-2-yloxy)phenylcarbamoyl]-2-thiobarbituric acid
2.5 g (10 mmol) of 1,3-dimethyl-5-ethoxycarbonyl-2-thiobarbituric acid, 2.0 g (10 mmol) of 4-(3-methylpyrazin-2-yloxy)aniline and 30 ml of ethanol are mixed and, with stirring, are kept at 60° C. for 20 hours. The mixture is then allowed to cool and the crystalline precipitate formed is isolated by filtration, washed with ethanol and dried in vacuo at 80° C.

reactant | 1,3-dimethyl-5-ethoxycarbonyl-2-thiobarbituric acid | 10 mmol, 2.5 g | CN1C(=S)N(C(=O)C(C1=O)C(=O)OCC)C | C9H12N2O4S
reactant | 4-(3-methylpyrazin-2-yloxy)aniline | 10 mmol, 2.0 g | CC=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C11H11N3O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,3-Dimethyl-5-[4-(3-methylpyrazin-2-yloxy)phenylcarbamoyl]-2-thiobarbituric acid | CN1C(=S)N(C(=O)C(C1=O)C(NC1=CC=C(C=C1)OC1=NC=CN=C1C)=O)C | C18H17N5O4S
